US09079887B2
To a solution of (2S,4S)-tert-butyl 2-(5-(4-bromophenyl)-1H-imidazol-2-yl)-4-(methoxymethyl)pyrrolidine-1-carboxylate (2.7 g, 7.0 mmol), bis(pinacolato)diboron (2.6 g, 10.5 mmol), potassium acetate (2.0 g, 20.9 mmol) in dioxane (50 mL) was added Pd(dppf)Cl2 (0.32 g, 0.44 mmol). The slurry was degassed with argon for 5 min and heated to 80° C. for 5 h. The reaction was diluted with EtOAc, filtered through celite, and concentrated in vacuo. The crude oil was purified by column chromatography (SiO2, 25 to 100% EtOAc (5% MeOH)/Hexanes) to provide (2R,4S)-tert-butyl 4-(methoxymethyl)-2-(5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate (2.8 g, 84%). LCMS-ESI+: calc'd for C26H38BN3O5: 483.29 (M+). Found: 484.14 (M+H+).

reactant | (2S,4S)-tert-butyl 2-(5-(4-bromophenyl)-1H-imidazol-2-yl)-4-(methoxymethyl)pyrrolidine-1-carboxylate | 7.0 mmol, 2.7 g | BrC1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N(C[C@H](C1)COC)C(=O)OC(C)(C)C | C20H26BrN3O3
reactant | bis(pinacolato)diboron | 10.5 mmol, 2.6 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 20.9 mmol, 2.0 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.44 mmol, 0.32 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (2R,4S)-tert-butyl 4-(methoxymethyl)-2-(5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate | 2.8 g, 84% | COC[C@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C26H38BN3O5
